US05036153
(2S, 4S)-2-Hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl) pyrrolidine
4.14 g (109.5 mmol) of sodium borohydride was suspended in 150 ml of THF at 0° C. and 17.6 ml (142.2 mmol) of borontrifluoride etherate was added dropwise over a period of 10 minutes. 15.6 g (54.7 mmol) of 1-(4-toluenesulfonyl)-4-hydroxy-D-proline was added in portions and the mixture was allowed to stir at room temperature for 16 hours. The reaction was then cooled to 0° C. and quenched with methanol: 10% aqueous HC1 solution was then added and the mixture was gently heated to 60° C. for 1 hour. The pH of the reaction was adjusted to neutral with 50% aqueous sodium hydroxide solution and the volatiles were evaporated under reduced pressure. The product was then isolated via filtration and the filter cake was washed with water. Drying under vacuum at 60° C. for 12 hours yielded 10.2 g of the product as a white solid in 69% yield. M.P.=103°-105° C.

reactant | sodium borohydride | 109.5 mmol, 4.14 g | [BH4-].[Na+]
reactant | borontrifluoride etherate | 142.2 mmol, 17.6 ml | B(F)(F)F.CCOCC
reactant | 1-(4-toluenesulfonyl)-4-hydroxy-D-proline | 54.7 mmol, 15.6 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C(=O)O)CC(C1)O)C | C12H15NO5S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (2S, 4S)-2-Hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl) pyrrolidine | 10.2 g, 69% yield | OC[C@H]1N(C[C@H](C1)O)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO4S
